US07101864B1
A mixture of 0.359 g (1.4 mmol) of N-(cyclohexyl)diethylphosphonoformamide, 0.276 g (0.7 mmol) of Lawesson Reagent in 10 ml toluene was refluxed for 5.5 h. The resulting mixture was subjected to VLC (vacuum liquid chromatography) using gradient eluants [from 5% ethyl acetate in petroleum ether to ethyl acetate/petroleum ether (40:60) to give N-cyclohexyl diethylphosphonothioformamide as a yellow solid, 0.327 g (85.8%, isolated yield). NMR (CDCl3): 3P −1.66. 1H, 1.18–2.01 (m, 16H), 4.17 (m, 4H), 4.34 (m, 1H), 8.89 (br. s, 1H).

reactant | N-(cyclohexyl)diethylphosphonoformamide | 1.4 mmol, 0.359 g | C1(CCCCC1)N(C=O)P(=O)(OCC)OCC | C11H22NO4P
reactant | Lawesson Reagent | 0.7 mmol, 0.276 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-cyclohexyl diethylphosphonothioformamide | C1(CCCCC1)N(C=S)P(=O)(OCC)OCC | C11H22NO3PS
